US05214191
B) 2-(4'-Aminophenyl)butyric acid
A solution of 2-(4'-nitrophenyl)butyric acid (6.99 g, 33.4 mmol) in 250 mL of EtOH and 0.5 g of 10% Pd-C was hydrogenated overnight at 55 psi. The solution was filtered and evaporated under vacuum to give 5.50 g (92%) of the desired product.

reactant | 2-(4'-nitrophenyl)butyric acid | 33.4 mmol, 6.99 g | [N+](=O)([O-])C1=CC=C(C=C1)C(C(=O)O)CC | C10H11NO4
solvent | EtOH | 250 mL | CCO | C2H6O
catalyst | Pd-C | 0.5 g | [Pd] | Pd
product | 2-(4'-Aminophenyl)butyric acid | 5.50 g, 92% | NC1=CC=C(C=C1)C(C(=O)O)CC | C10H13NO2
